US07741315B2
Step 8: N-[2-(Benzyloxy)ethyl]-N-(4-methanesulfonyloxybutyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide
To a solution of N-[2-(benzyloxy)ethyl]-N-(4-hydroxybutyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide (0.20 g, 0.34 mmol) and diisopropylethylamine (0.07 mL, 0.41 mmol) in dichloromethane, methanesulfonic anhydride (71 mg, 0.41 mmol) was added. The reaction mixture was stirred at room temperature for 30 minutes. The product mixture was washed with water. The organic extract was dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 0.5% methanol in dichloromethane. Collection and concentration of appropriate fractions afforded the title compound.

reactant | N-[2-(benzyloxy)ethyl]-N-(4-hydroxybutyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | 0.34 mmol, 0.20 g | C(C1=CC=CC=C1)OCCN(C(=O)C=1NC(C(=C2C(N(CCC12)CC1=CC(=C(C=C1)F)Cl)=O)OC)=O)CCCCO | C30H33ClFN3O6
reactant | diisopropylethylamine | 0.41 mmol, 0.07 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonic anhydride | 0.41 mmol, 71 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[2-(Benzyloxy)ethyl]-N-(4-methanesulfonyloxybutyl)-6-(3-chloro-4-fluorobenzyl)-4-methoxy-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxamide | C(C1=CC=CC=C1)OCCN(C(=O)C=1NC(C(=C2C(N(CCC12)CC1=CC(=C(C=C1)F)Cl)=O)OC)=O)CCCCOS(=O)(=O)C | C31H35ClFN3O8S
